US08217066B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(4-isopropyl-phenyl)-2-methyl-propyl]-amine:
5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylamine (0.300 g, 1.19 mmol) and 3-(4-isopropylphenyl)isobutyraldehyde (0.272 g, 1.43 mmol) were combined in toluene (3 mL) and stirred at 110° C. for 1 hour. After cooling to room temperature, toluene was removed under vacuum and the mixture was diluted with THF (4 mL). Sodium cyanoborohydride (0.188 g, 2.98 mmol) was added, and the reaction was stirred at room temperature for 1 hour. The mixture was adsorbed onto silica gel and purified by silica gel chromatography to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylamine | 1.19 mmol, 0.300 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | 3-(4-isopropylphenyl)isobutyraldehyde | 1.43 mmol, 0.272 g | C(C)(C)C1=CC=C(C=C1)CC(C=O)C | C13H18O
reactant | Sodium cyanoborohydride | 2.98 mmol, 0.188 g | C(#N)[BH3-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[3-(4-isopropyl-phenyl)-2-methyl-propyl]-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NCC(CC1=CC=C(C=C1)C(C)C)C | C23H27BrN2O
